US07858640B2
[3-(4-chlorobenzyl)-8-fluoro-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (0.50 g), 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester (7.4 g) and polyphosphoric acid (1.1 g) was heated at 130° C. for 2 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were washed with water and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (19:1 by volume) to afford title compound, 0.29 g.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 0.50 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester | 7.4 g | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)Cl)=O | C13H15ClO3
solvent | water | O | H2O
product | [3-(4-chlorobenzyl)-8-fluoro-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)C)CC1=CC=C(C=C1)Cl)=O)=O | C20H17ClFNO4
